US06423704B1
Hydrolyze 4-{1-[2-(2-methoxy-ethoxy)-ethyl]-1H-benzoimidazol-2-yl}-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.73 g, 1.73 mmol) with hydroiodic acid (57%, 5 mL) for 1 hour as described in Example 113 to provide 2-[1,4]diazepan-1-yl-1-[2-(2-methoxy-ethoxy)-ethyl]-1H-benzoimidazole dihydroiodide (0.73 g).

reactant | 4-{1-[2-(2-methoxy-ethoxy)-ethyl]-1H-benzoimidazol-2-yl}-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.73 mmol, 0.73 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOCCOC)C=CC=C2 | C22H34N4O4
reactant | hydroiodic acid | 5 mL | I | HI
product | 2-[1,4]diazepan-1-yl-1-[2-(2-methoxy-ethoxy)-ethyl]-1H-benzoimidazole dihydroiodide | 0.73 g | I.I.N1(CCNCCC1)C1=NC2=C(N1CCOCCOC)C=CC=C2 | InChI=1S/C17H26N4O2.2HI/c1-22-13-14-23-12-11-21-16-6-3-2-5-15(16)19-17(21)20-9-4-7-18-8-10-20;;/h2-3,5-6,18H,4,7-14H2,1H3;2*1H
